US05599825
2) Synthesis of 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazolin-2-on
2.0 g of naphtho[2,1-d]thiazoline-2-on, 3.0 g of 2-methoxyethoxyethoxy-1-iodoethane (synthesized from methoxyethoxyethoxyethyl p-toluenesulfonate and sodium iodide), 0.6 g of potassium hydroxide and 20 ml of ethanol were fed into a 50 ml short-neck flask provided with a reflux condenser, and heated under reflux and under stirring for 4 hours. After cooling to room temperature followed by extraction with 300 ml of ethyl acetate and 150 ml of water, the thus-obtained ethyl acetate layer was dried over sodium sulfate, and ethyl acetate was distilled off under reduced pressure. The obtained compound was purified by column chromatography (hexane:ethyl acetate=1:1) to obtain the intended compound.

reactant | naphtho[2,1-d]thiazoline-2-on | 2.0 g | S1C(NC2=C1C1=CC=CC=C1C=C2)=O | C11H7NOS
reactant | 2-methoxyethoxyethoxy-1-iodoethane | 3.0 g | COCCOCCOC(C)I | C7H15IO3
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazolin-2-on | COCCOCCOCCN1C(SC2=C1C=CC1=CC=CC=C12)=O | C18H21NO4S
